US06358554B1
To 1.1 kg of hen's whole eggs, a solution formed of 3 liters of brewed vinegar and 3 g each of citric acid and malic acid was added and mixed with a mixer. Then 0.05% by weight each of Saccharated Pepsin (Mikuni Chemical Industries Co., Ltd.), Lipase (Amano Pharmaceutical Co., Ltd.) and Pancreatin (Amano Pharmaceutical Co., Ltd.) to the whole eggs were added to the mixture, followed by 2 days' standing. After removing the solid components, the remaining liquid decomposition product was low temperature-concentrated under reduced pressure to ½ of its original volume. Into this concentrate an aqueous solution containing 15 g of gelatin was added, and the resulting solution was spray-dried at an inlet temperature of 200° C. and outlet temperature of 125° C., to provide 610 g of gelatin- and alginic acid-coated solubilized pickled egg powder.

reactant | malic acid | C(C(O)CC(=O)O)(=O)O | C4H6O5
solvent | vinegar | 3 liters | CC(=O)O | C2H4O2
product | citric acid | 3 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
